US09334271B2
c) 2,6-Bis-((R)-3-methyl-morpholin-4-yl)-9-(tetrahydro-pyran-2-yl)-9H-purine
2,6-Bis-((R)-3-methyl-morpholin-4-yl)-9H-purine (600 mg, 1.89 mmol) was dissolved in EtOAc (25 mL) under argon. After addition of 3,4-dihydro-2H-pyrane (172 μl, 1.89 mmol), trifluoro acetic acid anhydride (27 μl, 188 μmol), and trifluoro acetic acid (319 μl, 4.15 mmol), the reaction mixture was heated to 70° C. After 6 hours, 3,4-dihydro-2H-pyrane (1.44 mL, 15.7 mmol) was added. The reaction was then stirred for 22 hours at 70° C. and then cooled to room temperature. 500 mg of solid Na2CO3 was added and stirring continued for 10 minutes. The reaction mixture was diluted with EtOAc, the organic layer was separated, dried over Na2SO4, filtered and concentrated under reduced pressure to give a residue, which was purified by column chromatography (40 g SiO2, heptane/EtOAc in a gradient from 9/1 to 2/3) to give the product as a foam (600 mg, 79%).

reactant | 2,6-Bis-((R)-3-methyl-morpholin-4-yl)-9H-purine | 1.89 mmol, 600 mg | C[C@H]1N(CCOC1)C1=NC(=C2N=CNC2=N1)N1[C@@H](COCC1)C | C15H22N6O2
reactant | 3,4-dihydro-2H-pyrane | 1.89 mmol, 172 μl | O1CCCC=C1 | C5H8O
reactant | trifluoro acetic acid anhydride | 188 μmol, 27 μl | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoro acetic acid | 4.15 mmol, 319 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3,4-dihydro-2H-pyrane | 15.7 mmol, 1.44 mL | O1CCCC=C1 | C5H8O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 2,6-Bis-((R)-3-methyl-morpholin-4-yl)-9-(tetrahydro-pyran-2-yl)-9H-purine | 600 mg, 79% | C[C@H]1N(CCOC1)C1=NC(=C2N=CN(C2=N1)C1OCCCC1)N1[C@@H](COCC1)C | C20H30N6O3
